US07985491B2
Commercial 2,6-dibromonaphthalene in an amount of 12 g, 11 g of commercial 3-biphenylboronic acid and 180 ml of toluene were mixed together. Then, 5.7 g of tetrakis(triphenylphosphine)palladium and 90 ml of a 2 M aqueous solution of sodium carbonate were added, and the reaction system was purged with argon. After the reaction mixture was heated under the refluxing condition for 7.5 hours, the reaction mixture was cooled by leaving standing. The formed crystals were separated by filtration and subjected to extraction with toluene. The obtained organic layer was washed with water and a saturated aqueous solution of sodium chloride and dried with anhydrous sodium sulfate, and the solvent was removed using an evaporator. The obtained residue was purified in accordance with the silica gel column chromatography (the developing solvent: hexane/toluene=5/1), and 7.8 g of 2-(biphenyl-3-yl)-6-bromonaphthalene was obtained as a white solid substance (the yield: 51%). 2-(Biphenyl-3-yl)-6-bromonaphthalene obtained above in an amount of 5.2 g, 6.4 g of 3-(9-phenylanthracen-10-yl)phenylboronic acid obtained in accordance with a conventional process, 60 ml of DME and 20 ml of toluene were mixed together. To the obtained solution, 0.67 g of tetrakis(triphenylphosphine)palladium and 60 ml of a 2 M aqueous solution of sodium carbonate were added, and the reaction system was purged with argon. After the reaction mixture was heated under the refluxing condition for 10 hours, the reaction mixture was cooled by leaving standing. The formed crystals were separated by filtration, washed with water and methanol and then with heated toluene, and 7.0 g of the object compound (AN-14) was obtained as a white solid substance (the yield: 74%). The obtained compound was examined in accordance with FD-MS (the field desorption mass analysis). Since it was found that m/z=658, which corresponded to C52H34=658, the obtained compound was identified to be AN-14.

reactant | 2,6-dibromonaphthalene | BrC1=CC2=CC=C(C=C2C=C1)Br | C10H6Br2
reactant | 3-biphenylboronic acid | 12 g | C1(=CC(=CC=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 5.7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(biphenyl-3-yl)-6-bromonaphthalene | 7.8 g, yield: 51% | C1(=CC(=CC=C1)C1=CC2=CC=C(C=C2C=C1)Br)C1=CC=CC=C1 | C22H15Br
